US09376422B2
Step 5: Synthesis of methyl 3-(allyl(tetrahydro-2H-pyran-4-yl)amino)-5-chloro-2-methylbenzoate
To a stirred solution of methyl 5-chloro-2-methyl-3-((tetrahydro-2H-pyran-4-yl)amino)benzoate (1.0 g, 3.3 mmol) in DMF (10 mL), NaH (0.25 g, 10 mmol) was added at 0° C. and the mixture stirred for 20 minutes. 3-bromoprop-1-ene (1.7 g, 14.13 mmol) was added and the mixture was heated at 80° C. for 15 h. On completion, the reaction was quenched with ice cold water and extraction was carried out using DCM. The combined organic layers were dried, concentrated and resulting crude was purified by column chromatography giving the title compound (0.50 g, 44%).

reactant | methyl 5-chloro-2-methyl-3-((tetrahydro-2H-pyran-4-yl)amino)benzoate | 3.3 mmol, 1.0 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCOCC1 | C14H18ClNO3
reactant | NaH | 10 mmol, 0.25 g | [H-].[Na+]
reactant | 3-bromoprop-1-ene | 14.13 mmol, 1.7 g | BrCC=C | C3H5Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 3-(allyl(tetrahydro-2H-pyran-4-yl)amino)-5-chloro-2-methylbenzoate | 0.50 g, 44% | C(C=C)N(C=1C(=C(C(=O)OC)C=C(C1)Cl)C)C1CCOCC1 | C17H22ClNO3
